US07875639B2
3-(2-methoxy-ethyl)-4,5,6,7-tetrahydro-3H-benzothiazol-2-ylideneamine hydrobromide
A mixture of 4,5,6,7-tetrahydro-benzothiazol-2-ylamine (300 mg, 1.94 mmol) and 2-bromoethyl methyl ether (600 μL, 6.40 mmol) was processed according to the method of Example 2A to afford the title compound: MS (LC/MS) m/z 213 (M+H)+.

reactant | 4,5,6,7-tetrahydro-benzothiazol-2-ylamine | 1.94 mmol, 300 mg | S1C(=NC2=C1CCCC2)N | C7H10N2S
reactant | 2-bromoethyl methyl ether | 6.40 mmol, 600 μL | COCCBr | C3H7BrO
product | 3-(2-methoxy-ethyl)-4,5,6,7-tetrahydro-3H-benzothiazol-2-ylideneamine hydrobromide | Br.COCCN1C(SC2=C1CCCC2)=N | InChI=1S/C10H16N2OS.BrH/c1-13-7-6-12-8-4-2-3-5-9(8)14-10(12)11;/h11H,2-7H2,1H3;1H
